### PR TITLE
[Merged by Bors] - feat(CStarAlgebra): log is operator concave

### PR DESCRIPTION
**Pull request by dupuisf**
This PR shows that the log is operator concave, i.e. `CFC.log` is concave on strictly positive elements of a unital C⋆-algebra.

---
The proof has a lot in common with the proof that the log is operator monotone; I tried to extract the common elements as well as I could, hence the rather ugly-looking auxiliary lemmas. (One of them is private to avoid making more imports public.)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean [hunk 1]
```diff
@@ -48,6 +49,36 @@ lemma CFC.tendsto_cfc_rpow_sub_one_log {a : A} (ha : IsStrictlyPositive a := by
...
+  let f (p : ℝ) :=
+    fun a => if IsStrictlyPositive a then cfc (A := A) (fun x => p⁻¹ * (x ^ p - 1)) a else 0
+  let g := fun a => if IsStrictlyPositive a then log (A := A) a else 0
+  have hg : s.EqOn g (log (A := A)) := by simp [g, Set.EqOn]; grind
+  rw [tendsto_pi_nhds]
+  intro a
+  by_cases ha : IsStrictlyPositive a
+  · have hf : ∀ p, cfc (fun x => p⁻¹ * (x ^ p - 1)) a = f p a := by simp [f, ha]
+    exact (hg ha ▸ tendsto_cfc_rpow_sub_one_log ha).congr hf
+  · simp [ha]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]:
```suggestion
  rw [tendsto_pi_nhds]
  intro a
  by_cases ha : IsStrictlyPositive a
  · simpa [ha] using CFC.tendsto_cfc_rpow_sub_one_log ha
  · simp_all
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean [hunk 2]
```diff
@@ -48,6 +49,36 @@ lemma CFC.tendsto_cfc_rpow_sub_one_log {a : A} (ha : IsStrictlyPositive a := by
...
+private lemma CFC.cfc_rpow_sub_one_eqOn {p : ℝ} :
+    {a : A | IsStrictlyPositive a}.EqOn
+      (fun a => if a ∈ {b : A | IsStrictlyPositive b}
+        then cfc (fun x => p⁻¹ * (x ^ p - 1)) a else 0) (fun a => p⁻¹ • (a ^ p - (1 : A))) := by
+  let s := {a : A | IsStrictlyPositive a}
+  let f (p : ℝ) := fun a => if a ∈ s then cfc (A := A) (fun x => p⁻¹ * (x ^ p - 1)) a else 0
+  intro a ha
+  simp only [ha, ↓reduceIte, ← smul_eq_mul]
+  rw [cfc_smul _ (hf := by fun_prop (disch := grind -abstractProof)),
+    cfc_sub _ _ (hf := by fun_prop (disch := grind -abstractProof)),
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]:
```suggestion
  intro a ha
  simp only [ha, ↓reduceIte, ← smul_eq_mul]
  rw [cfc_smul _ (hf := by fun_prop (disch := grind)),
    cfc_sub _ _ (hf := by fun_prop (disch := grind)),
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean [hunk 3]
```diff
@@ -61,28 +92,43 @@ lemma CFC.log_monotoneOn : MonotoneOn log {a : A | IsStrictlyPositive a} := by
...
+open Classical Real Set in
+/-- `log` is operator concave. -/
+lemma CFC.concaveOn_log : ConcaveOn ℝ {a : A | IsStrictlyPositive a} log := by
+  /- We have that `log x = lim_{p → 0} p⁻¹ * (x ^ p - 1)` with uniform convergence on the spectrum
+  of any positive definite operator, which means that `CFC.log a = lim_{p → 0} p⁻¹ * (a ^ p - 1)`
+  by the continuity of the continuous functional calculus (`tendsto_cfc_fun`). Then, we use the
+  fact that `x^p` is concave for `p ∈ [0,1]` (`CFC.concaveOn_rpow`) and that the set of
+  concave functions is closed (`isClosed_setOf_concaveOn`) to conclude the proof. -/
+  let s := {a : A | IsStrictlyPositive a}
+  let sconc := {f : A → A | ConcaveOn ℝ s f}
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]:
```suggestion
  set s := {a : A | IsStrictlyPositive a}
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean [hunk 4]
```diff
@@ -61,28 +92,43 @@ lemma CFC.log_monotoneOn : MonotoneOn log {a : A | IsStrictlyPositive a} := by
...
+  let f (p : ℝ) := fun a => if a ∈ s then cfc (A := A) (fun x => p⁻¹ * (x ^ p - 1)) a else 0
+  let g := fun a => if a ∈ s then log (A := A) a else 0
+  have hg : s.EqOn g (log (A := A)) := by simp +contextual [g, Set.EqOn]
+  refine ConcaveOn.congr ?_ hg
+  have hclosed : IsClosed sconc := isClosed_setOf_concaveOn
+  suffices g ∈ sconc by rwa [Set.mem_setOf] at this
+  refine hclosed.mem_of_tendsto (f := f) (b := (𝓝[>] (0 : ℝ)))
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]:
```suggestion
  apply hclosed.mem_of_tendsto (f := f) (b := (𝓝[>] (0 : ℝ)))
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean [hunk 5]
```diff
@@ -61,28 +92,43 @@ lemma CFC.log_monotoneOn : MonotoneOn log {a : A | IsStrictlyPositive a} := by
...
+    tendsto_ite_cfc_rpow_sub_one_ite_log ?_
+  have h₁ : ∀ᶠ (p : ℝ) in 𝓝[>] 0, 0 < p ∧ p < 1 := nhdsGT_basis 0 |>.mem_of_mem zero_lt_one
+  filter_upwards [h₁] with p ⟨hp, hp'⟩
+  rw [Set.mem_setOf]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/ExpLog/Order.lean]:
```suggestion
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors d+
